US06361717B1
3,3′-Dihexyl-2,2′-bithiophene
Hexylmagnesium bromide (100 ml, 2 M solution in diethyl ether, 200 mol) was added dropwise to a solution of 3,3′-dibromo-2,2′-bithiophene (15 g, 46.6 mmol) and Ni(dppp)Cl2 (0.5 g, 0.1 mmol) in 100 ml of diethyl ether at 0° C. The reaction was slightly exothermic and a red brown coloration was observed. After stirred and heated for 24 h, the reaction mixture was cautiously poured into a mixture of crushed ice and diluted HCl solution and extracted with ether. The combined extracts were dried over anhydrous MgSO4 and filtered. After removal of the solvent, the residue was vacuum-distilled to give a clear viscous oil (15.6 g, 81%). 1H-NMR (CDCl3, ppm): δ7.25 (d, 2H, J=5 Hz), 6.96 (d, 2H, J=5 Hz), 2.50 (t, 4H), 1.54 (m, 4H), 1.23 (m, 12H), 0.85 (t, 6H).

reactant | Hexylmagnesium bromide | 200 mol, 2 M, 100 ml | C(CCCCC)[Mg]Br
reactant | 3,3′-dibromo-2,2′-bithiophene | 46.6 mmol, 15 g | BrC1=C(SC=C1)C=1SC=CC1Br | C8H4Br2S2
reactant | HCl | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | Ni(dppp)Cl2 | 0.1 mmol, 0.5 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 3,3′-Dihexyl-2,2′-bithiophene | 15.6 g, 81% | C(CCCCC)C1=C(SC=C1)C=1SC=CC1CCCCCC | C20H30S2
